US04070366
Tetramethyl-pyrrole
A solution of 2,3-dimethyl-5-carbethoxy-pyrrole (0.82 g) in acetic acid (10 ml), hydriodic acid (10 ml), hypophosphorous acid (2 ml) and paraformaldehyde (0.6 g) was stirred and heated at 100° under nitrogen for 3 hr. then poured into water. The mixture was made alkaline with ammonia and extracted with ether. The ether was evaporated and the residue distilled (65°, 15 mm) to give the product (53%) m.p. 105°-107°.

reactant | 2,3-dimethyl-5-carbethoxy-pyrrole | 0.82 g | CC=1NC(=CC1C)C(=O)OCC | C9H13NO2
reactant | paraformaldehyde | 0.6 g | C=O | CH2O
reactant | water | O | H2O
reactant | ammonia | N | H3N
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | hydriodic acid | 10 ml | I | HI
solvent | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
product | Tetramethyl-pyrrole | 53% | CC1=C(C(=C(N1)C)C)C | C8H13N
